US08633212B2
To a solution of LiAlH4 (2.45 g, 0.065 mol) in THF (30 mL) was added 3,4-difluoro-2-(2-hydroxyethyl)benzoic acid (8.7 g, 0.043 mol) in THF (60 mL) at 0° C. The mixture was stirred at room temperature overnight. The reaction was quenched with 3 mL of H2O, followed by aqueous NaOH solution (3 mL, 10%). The solution was filtered and the filtrated was concentrated to give the residue, which was purified by chromatography to give 2-(2,3-difluoro-6-(hydroxymethyl)phenyl)ethanol (2.5 g, 31%). 1H NMR (CDCl3): 2.99 (m, 2H), 3.58 (s, 2H), 3.83 (t, 2H), 4.52 (s, 2H), 7.03 (m, 2H).

reactant | LiAlH4 | 0.065 mol, 2.45 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3,4-difluoro-2-(2-hydroxyethyl)benzoic acid | 0.043 mol, 8.7 g | FC=1C(=C(C(=O)O)C=CC1F)CCO | C9H8F2O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-(2,3-difluoro-6-(hydroxymethyl)phenyl)ethanol | 2.5 g, 31% | FC1=C(C(=CC=C1F)CO)CCO | C9H10F2O2
